US05643908
4-(S)-Isopropyl-3-[2-(R)-tert-butoxycarbonylmethyl-1-oxononyl]-2-oxazolidinone
Following the procedure described in Referential Example 4, but using 4-(S)-isopropyl-3-(1-oxononyl)-2-oxazolidinone (10.09 g), prepared in Referential Example 71, and tert-butyl bromoacetate (30 ml), the desired compound (12.62 g) was obtained.

reactant | 4-(S)-isopropyl-3-(1-oxononyl)-2-oxazolidinone | 10.09 g | C(C)(C)[C@@H]1N(C(OC1)=O)C(CCCCCCCC)=O | C15H27NO3
reactant | tert-butyl bromoacetate | 30 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
product | 4-(S)-Isopropyl-3-[2-(R)-tert-butoxycarbonylmethyl-1-oxononyl]-2-oxazolidinone | 12.62 g | C(C)(C)[C@@H]1N(C(OC1)=O)C([C@H](CCCCCCC)CC(=O)OC(C)(C)C)=O | C21H37NO5
